US07759337B2
Step 3: (R)-7-(6-chlorophthalazin-1-yl)-tetrahydro-1H-oxazolo[3,4-a]pyrazin-3(5H)-one
The title compound was prepared by a method analogous to that described in Example 8 (Method A). A mixture of (R)-tetrahydro-1H-oxazolo[3,4-a]pyrazin-3(5H)-one (0.800 g, 5.63 mmol), 1,6-dichlorophthalazine (0.516 g, 2.59 mmol) and N,N-diisopropylethylamine(1.40 mL, 8.04 mmol) in 3 mL 1-methyl-2-pyrolidone was heated at 140° C. After 4.5 h the reaction was cooled to RT, quenched with H2O and extracted with ethyl acetate (3×). The combined organic layers were dried over Na2SO4, filtered, evaporated onto silica gel and purified by flash chromatography eluting with 2 M NH3 in MeOH/CH2Cl2 (0:1→1:39) to give 1.18 g of a brown liquid. MS m/z: 305.1 [M+1].

reactant | (R)-tetrahydro-1H-oxazolo[3,4-a]pyrazin-3(5H)-one | 5.63 mmol, 0.800 g | C1OC(N2[C@@H]1CNCC2)=O | C6H10N2O2
reactant | 1,6-dichlorophthalazine | 2.59 mmol, 0.516 g | ClC1=NN=CC2=CC(=CC=C12)Cl | C8H4Cl2N2
reactant | N,N-diisopropylethylamine | 8.04 mmol, 1.40 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-methyl-2-pyrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | (R)-7-(6-chlorophthalazin-1-yl)-tetrahydro-1H-oxazolo[3,4-a]pyrazin-3(5H)-one | ClC=1C=C2C=NN=C(C2=CC1)N1C[C@H]2N(CC1)C(OC2)=O | C14H13ClN4O2
